US09334260B2
3,3″-Bis(4,6-diphenyl-1,3,5-triazin-2-yl)-9,3′:6′,9″-ter-9H-carbazole (C1)
1.6 g (40 mmol) of NaH (60% in oil) are initially introduced in 150 ml of DMF. A solution of 19.9 g (30 mmol) of 3,3″-bis(phenyl)-9,3′:6′,9″-ter-9H-carbazole in 50 ml of DMF is added dropwise thereto at RT. After 1 h, 9 g (33 mmol) of 2-chloro-4,6-diphenyl-1,3,5-triazine are added, and the mixture is stirred at RT for 8 h. The precipitated solid is recrystallised from toluene. The deposited crystals are filtered off with suction, washed with a little MeOH and dried in vacuo; yield: 17.8 g (20 mmol), 66%; purity: 99.9% according to HPLC.

reactant | NaH | 40 mmol, 1.6 g | [H-].[Na+]
reactant | 3,3″-bis(phenyl)-9,3′:6′,9″-ter-9H-carbazole | 30 mmol, 19.9 g | C1(=CC=CC=C1)C=1C=CC=2N(C3=CC=CC=C3C2C1)C=1C=CC=2NC3=CC=C(C=C3C2C1)N1C2=CC=CC=C2C=2C=C(C=CC12)C1=CC=CC=C1 | C48H31N3
reactant | 2-chloro-4,6-diphenyl-1,3,5-triazine | 33 mmol, 9 g | ClC1=NC(=NC(=N1)C1=CC=CC=C1)C1=CC=CC=C1 | C15H10ClN3
solvent | DMF | 150 ml | CN(C)C=O | C3H7NO
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 3,3″-Bis(4,6-diphenyl-1,3,5-triazin-2-yl)-9,3′:6′,9″-ter-9H-carbazole | C1(=CC=CC=C1)C1=NC(=NC(=N1)C1=CC=CC=C1)C=1C=CC=2N(C3=CC=CC=C3C2C1)C=1C=CC=2NC3=CC=C(C=C3C2C1)N1C2=CC=CC=C2C=2C=C(C=CC12)C1=NC(=NC(=N1)C1=CC=CC=C1)C1=CC=CC=C1 | C66H41N9
